.SUBCKT NAND2 A B VDD VSS Y
*.PININFO A:I B:I Y:O VDD:B VSS:B
MMN0 Y B net15 VSS nm1p2_svt_lp W=nw L=nl m=1
MMN2 net15 A VSS VSS nm1p2_svt_lp W=nw L=nl m=1
MMP2 Y A VDD VDD pm1p2_svt_lp W=pw L=pl m=1
MMP0 Y B VDD VDD pm1p2_svt_lp W=pw L=pl m=1
.ENDS
